US08138181B2
Step E: Preparation of (cis)-naphthalen-2-ylmethyl 3-fluoro-4-hydroxypiperidine-1-carboxylate:
To a suspension of naphthalen-2-ylmethyl 3-fluoro-4-oxopiperidine-1-carboxylate (41.75 g, 138.6 mmol) in anhydrous THF (800 mL) at 0° C. was added L-Selectride (346 mL, 1.0 M, 346 mmol) dropwise over 30 minutes, during which a yellow solution formed. The solution was allowed to warm to ambient temperature and stir for 16 hours. The mixture was cooled to 0° C., then treated with methanol (160 mL) and 2 N NaOH (350 mL) followed by the dropwise addition of 30% H2O2 (160 mL), during which an exotherm was observed. After stirring at 0° C. for an additional 1 hour and then at ambient temperature for 3 hours, the mixture was extracted with EtOAc. The combined organic phases were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified on a large silica gel plug eluting with hexanes:EtOAc, 1:1 to afford 26.78 g (64%) of desired product as a solid.

reactant | naphthalen-2-ylmethyl 3-fluoro-4-oxopiperidine-1-carboxylate | 138.6 mmol, 41.75 g | FC1CN(CCC1=O)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C17H16FNO3
reactant | L-Selectride | 346 mmol, 1.0 M, 346 mL | CCC([BH-](C(CC)C)C(CC)C)C.[Li+]
reactant | NaOH | 2 N, 350 mL | [OH-].[Na+]
reactant | H2O2 | 160 mL | OO | H2O2
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | methanol | 160 mL | CO | CH4O
product | (cis)-naphthalen-2-ylmethyl 3-fluoro-4-hydroxypiperidine-1-carboxylate | 26.78 g, 64% | F[C@@H]1CN(CC[C@@H]1O)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C17H18FNO3
